US05925662
7.5. 2-Cyanoethyl-3,4-dihydro-2H-1-benzopyran
A mixture of 15.8 g (47 mmol) of 2-p-toluenesulfonyloxyethyl-3,4-dihydro-2H-1-benzopyran and 3.4 g (52 mmol) of potassium cyanide in 320 ml of dimethyl sulfoxide is stirred for 2 hours. After addition of water, the product is extracted with chloroform containing a little methanol and then the organic phase is washed with a saturated solution of sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. By chromatography of the residue on a silica column using cyclohexane containing 10% ethyl acetate, 7.8 g of compound are obtained in oil form.

reactant | 2-p-toluenesulfonyloxyethyl-3,4-dihydro-2H-1-benzopyran | 47 mmol, 15.8 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1OC2=C(CC1)C=CC=C2)C | C18H20O4S
reactant | potassium cyanide | 52 mmol, 3.4 g | [C-]#N.[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 320 ml | CS(=O)C | C2H6OS
product | 2-Cyanoethyl-3,4-dihydro-2H-1-benzopyran | C(#N)CCC1OC2=C(CC1)C=CC=C2 | C12H13NO
